### PR TITLE
feat: new theorems, specified signed and unsigned

### PR DESCRIPTION
**Pull request by AnotherAlexHere**
I added some more theorems and specified if the inequalities are signed or unsigned.

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
Wow, what a nice quick iteration.

Your previous patch was already merged. I think you want to `git merge origin/main` or just 'git checkout main; git pull; git checkout -b hackers_delight_batch_4`and then push your changes on this branch. That keeps the history clean and resolved conflicts.

(There is quite a bit of git-skills that you are currently learning. Don't let this discourage you)

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 1]
```diff
@@ -164,16 +169,88 @@ theorem neq_iff_sub_or_sub :
...
+
+theorem neq_zero_iff_or_neg :
+    x ≠ 0 ↔ (x ||| -x).getMsb 0 := by
+  sorry
+
+theorem neq_zero_iff_neg_abs :
+    x ≠ 0 ↔ (-(x.abs)).getMsb 0 := by
+  sorry
+
+theorem lt_zero_iff :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: In keeping with the above convention, I suggest renaming this to "slt_zero_iff", especially since I believe the default behavior for lt is actually an unsigned comparison.

```suggestion
theorem slt_zero_iff :
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 2]
```diff
@@ -164,16 +169,88 @@ theorem neq_iff_sub_or_sub :
...
+    (x <ₛ 0) ↔ x.getMsb 0 := by
+  sorry
+
+theorem le_zero_iff_or_sub_one :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: Ditto for this theorem, and for all theorems below this one

```suggestion
theorem sle_zero_iff_or_sub_one :
```

**Review by AtticusKuhn — APPROVED** [review]
Looks good to me.

File: SSA/Projects/InstCombine/HackersDelight.lean (hunk 1 above)
Comment (AnotherAlexHere) [reply SSA/Projects/InstCombine/HackersDelight.lean]: ah yes, I started doing this with the unsigned inequalities but forgot these, I will update in upcoming commit

**Comment by tobiasgrosser** [comment]
@AnotherAlexHere and @AtticusKuhn, if you agree that the next chunk of statements looks good, you can merge them. 

You can then create a new working branch with the following sequence of commands `git remote update; git checkout -b bitvec_next_alex origin/main`. @AtticusKuhn maybe you can help @AnotherAlexHere to make sure she gets a branch that branches of from the latest origin/main.

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 3]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
+theorem neq_iff_neg_sub_abs :
+    x ≠ y ↔ (-(x - y).abs).getMsb 0 := by
+  sorry
+
 theorem lt_iff_sub_xor_xor_and_sub_xor :
-    x < y ↔ ((x - y) ^^^ ((x ^^^ y) &&& ((x - y) ^^^ x))).getMsb 0 := by
+    (x <ₛ y) ↔ ((x - y) ^^^ ((x ^^^ y) &&& ((x - y) ^^^ x))).getMsb 0 := by
   sorry
 
 theorem lt_iff_and_not_or_not_xor_and_sub :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
theorem slt_iff_and_not_or_not_xor_and_sub :
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 4]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
-    x < y ↔ ((x &&& ~~~ y) ||| (~~~ (x ^^^ y) &&& (x - y))).getMsb 0 := by
+    (x <ₛ y) ↔ ((x &&& ~~~ y) ||| (~~~ (x ^^^ y) &&& (x - y))).getMsb 0 := by
   sorry
 
 theorem le_iff_or_not_and_xor_or_not_sub :
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
theorem sle_iff_or_not_and_xor_or_not_sub :
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 5]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
+theorem eq_zero_iff_adc_not_add :
+    x = 0 ↔ (BitVec.carry w (~~~ x) 1) false := by
+  sorry
+
+theorem neq_zero_iff_adc_neg :
+    x ≠ 0 ↔ (BitVec.carry w (x) (-1)) false := by
+  sorry
+
+theorem slt_iff_adc :
+    (x <ₛ 0) ↔ (BitVec.carry w (x) (x)) false := by
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    (x <ₛ 0) ↔ (BitVec.carry w x x) false := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 6]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
+theorem ult_iff_adc_not_add :
+    (x ≤ᵤ y) ↔ (BitVec.carry w (y) (~~~ x + 1) false) := by
+  sorry
+
+theorem eq_zero_iff_adc_not_add :
+    x = 0 ↔ (BitVec.carry w (~~~ x) 1) false := by
+  sorry
+
+theorem neq_zero_iff_adc_neg :
+    x ≠ 0 ↔ (BitVec.carry w (x) (-1)) false := by
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    x ≠ 0 ↔ (BitVec.carry w x (-1)) false := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 7]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
+theorem sle_iff_adc_not_add_sub_sub :
+    (x ≤ₛ y) ↔ ((BitVec.carry w (y) (~~~ x + 1)) false) ^^^ x.getMsb (w - 1) ^^^ y.getMsb (w - 1) := by
+  sorry
+
+theorem ult_iff_not_adc_not_add :
+    (x <ᵤ y) ↔ ¬ (BitVec.carry w (x) (~~~ y + 1) false) := by
+  sorry
+
+theorem ult_iff_adc_not_add :
+    (x ≤ᵤ y) ↔ (BitVec.carry w (y) (~~~ x + 1) false) := by
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    (x ≤ᵤ y) ↔ (BitVec.carry w y (~~~ x + 1) false) := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 8]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
+theorem sle_iff_adc_add_sub_neg_add_sub :
+    (x ≤ₛ y) ↔ (BitVec.carry w (y + 2 ^ (w - 1)) (~~~ (x + 2 ^ (w - 1)) + 1)) false := by
+  sorry
+
+theorem sle_iff_adc_not_add_sub_sub :
+    (x ≤ₛ y) ↔ ((BitVec.carry w (y) (~~~ x + 1)) false) ^^^ x.getMsb (w - 1) ^^^ y.getMsb (w - 1) := by
+  sorry
+
+theorem ult_iff_not_adc_not_add :
+    (x <ᵤ y) ↔ ¬ (BitVec.carry w (x) (~~~ y + 1) false) := by
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    (x <ᵤ y) ↔ ¬ (BitVec.carry w x (~~~ y + 1) false) := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 9]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
+
+theorem slt_iff_not_adc_add_sub_neg_add_sub :
+    (x <ₛ y) ↔  ¬ (BitVec.carry w (x + 2 ^ (w - 1)) (~~~ (y + 2 ^ (w - 1)) + 1)) false := by
+  sorry
+
+instance : HXor Bool Bool Bool where
+  hXor := Bool.xor
+
+theorem sle_iff_not_adc_not_add_sub_xor_sub :
+    (x <ₛ y) ↔ !(BitVec.carry w (x) (~~~ y + 1) false ^^^ x.getMsb (w - 1) ^^^ y.getMsb (w - 1)) := by
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    (x <ₛ y) ↔ !(BitVec.carry w x (~~~ y + 1) false ^^^ x.getMsb (w - 1) ^^^ y.getMsb (w - 1)) := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 10]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
+
+theorem neq_iff_adc_not :
+    x ≠ y ↔ (BitVec.carry w (x) (~~~ y)) false := by
+  sorry
+
+theorem slt_iff_not_adc_add_sub_neg_add_sub :
+    (x <ₛ y) ↔  ¬ (BitVec.carry w (x + 2 ^ (w - 1)) (~~~ (y + 2 ^ (w - 1)) + 1)) false := by
+  sorry
+
+instance : HXor Bool Bool Bool where
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]: Is this a hack? I think it might be better to do a local instance
https://lean-lang.org/theorem_proving_in_lean4/type_classes.html#local-instances

**Comment by tobiasgrosser** [comment]
@AtticusKuhn, thank you for the review.

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 11]
```diff
@@ -164,16 +169,139 @@ theorem neq_iff_sub_or_sub :
...
+theorem sle_iff_not_adc_not_add_sub_xor_sub :
+    (x <ₛ y) ↔ !(BitVec.carry w (x) (~~~ y + 1) false ^^^ x.getMsb (w - 1) ^^^ y.getMsb (w - 1)) := by
+  sorry
+
+theorem sle_iff_adc_add_sub_neg_add_sub :
+    (x ≤ₛ y) ↔ (BitVec.carry w (y + 2 ^ (w - 1)) (~~~ (x + 2 ^ (w - 1)) + 1)) false := by
+  sorry
+
+theorem sle_iff_adc_not_add_sub_sub :
+    (x ≤ₛ y) ↔ ((BitVec.carry w (y) (~~~ x + 1)) false) ^^^ x.getMsb (w - 1) ^^^ y.getMsb (w - 1) := by
```
Comment (AtticusKuhn) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
    (x ≤ₛ y) ↔ ((BitVec.carry w y (~~~ x + 1)) false) ^^^ x.getMsb (w - 1) ^^^ y.getMsb (w - 1) := by
```

File: SSA/Projects/InstCombine/HackersDelight.lean (hunk 10 above)
Comment (AtticusKuhn) [reply SSA/Projects/InstCombine/HackersDelight.lean]: So that this instance is only used inside this namespace.

Comment (AnotherAlexHere) [inline SSA/Projects/InstCombine/HackersDelight.lean]:
```suggestion
local instance : HXor Bool Bool Bool where
```
